US04593102
3-[(3,4-Dichlorophenyl)thio]pyrrolidine hydrochloride hemihydrate
A solution of 18.90 g (0.0561 mole) of 3-[(3,4-dichlorophenyl)thio]-1-(phenylmethyl)pyrrolidine (free base) and 11.0 g (0.070 mole) of phenyl chloroformate in 800 ml of methylene chloride was stirred at room temperature for 3 hr. The methylene chloride solution was extracted first with dilute sulfuric acid followed by dilute sodium hydroxide, dried and evaporated in vacuo to give an oil. The oil was suspended in 300 ml of 48% hydrobromic acid and the mixture refluxed overnight. The reaction mixture was poured over ice and the mixture made basic with sodium hydroxide. The basic mixture was extracted with methylene chloride and the methylene chloride layer separated and dried over magnesium sulfate and evaporated in vacuo to give an oil, the free base of the title compound. The hydrochloride salt was prepared in methanol with ethereal hydrogen chloride and recrystallized from methanol diethyl ether to give a white crystalline salt. On drying under high vacuum at 80° C. the solid melted. On cooling, the melt formed a gloss, the monohydrochloride, hemihydrate.

reactant | 3-[(3,4-dichlorophenyl)thio]-1-(phenylmethyl)pyrrolidine | 0.0561 mole, 18.90 g | ClC=1C=C(C=CC1Cl)SC1CN(CC1)CC1=CC=CC=C1 | C17H17Cl2NS
reactant | phenyl chloroformate | 0.070 mole, 11.0 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
solvent | hydrobromic acid | 300 ml | Br | BrH
product | 3-[(3,4-Dichlorophenyl)thio]pyrrolidine hydrochloride hemihydrate | O.Cl.ClC=1C=C(C=CC1Cl)SC1CNCC1.ClC=1C=C(C=CC1Cl)SC1CNCC1.Cl | InChI=1S/2C10H11Cl2NS.2ClH.H2O/c2*11-9-2-1-7(5-10(9)12)14-8-3-4-13-6-8;;;/h2*1-2,5,8,13H,3-4,6H2;2*1H;1H2
